US06028195
e) 1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-phenylpiperazine
Phenyl N-(4,5-dimethyl-2-methoxyphenyl)carbamate(5.422 g, 0.02 mol) and 1-phenylpiperazine(3.44 g, 0.02 mol) were dissolved in tetrahydrofuran(10 ml). After DBU(3.04 g, 0.02 mol) was added, the resulting solution was stirred at room temperature for 2 hrs, concentrated and purified by column chromatography to obtain the titled compound.

reactant | Phenyl N-(4,5-dimethyl-2-methoxyphenyl)carbamate | 0.02 mol, 5.422 g | CC1=CC(=C(C=C1C)NC(OC1=CC=CC=C1)=O)OC | C16H17NO3
reactant | 1-phenylpiperazine | 0.02 mol, 3.44 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DBU | 0.02 mol, 3.04 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-phenylpiperazine | yield: 85% | CC1=CC(=C(C=C1C)NC(=O)N1CCN(CC1)C1=CC=CC=C1)OC | C20H25N3O2
